US04990529
Sodium 5-phenyl-2-pyrazoline-1-carboxylate (Compound No. 57)
Ethyl chloroformate (12 g) was added dropwise under ice cooling to a solution of 14.6 g 5-phenyl-2-pyrazoline and 12 g triethylamine in 100 ml chloroform, and the mixture was stirred at room temperature for three hours. The reaction mixture was washed with 3% hydrochloric acid and 3% aqueous solution of sodium bicarbonate in that order and then dried over anhydrous sodium sulfate. The solvent was distilled off from the dried solution, and the oily residue thus obtained (20 g) was dissolved in 80 ml ethanol. To this ethanolic solution, was added 10 ml of 40% aqueous solution of caustic soda, the mixture was stirred at room temperature for one hour, and the crystals which precipitated out were collected by filtration and dried under reduced pressure, affording 12 g of pure product. M.p.: 210° C. (dec.); NMR (D2O): 2.6-3.4 (2H, m), 4.7 (1H, dd, J=12,5 Hz), 7.14 (1H, t, J=2 Hz), 7.40 (5H, s).

reactant | Ethyl chloroformate | 12 g | ClC(=O)OCC | C3H5ClO2
reactant | 5-phenyl-2-pyrazoline | 14.6 g | C1(=CC=CC=C1)C1CC=NN1 | C9H10N2
reactant | triethylamine | 12 g | C(C)N(CC)CC | C6H15N
reactant | caustic soda | [OH-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Sodium 5-phenyl-2-pyrazoline-1-carboxylate | 12 g | C1(=CC=CC=C1)C1CC=NN1C(=O)[O-].[Na+] | InChI=1S/C10H10N2O2.Na/c13-10(14)12-9(6-7-11-12)8-4-2-1-3-5-8;/h1-5,7,9H,6H2,(H,13,14);/q;+1/p-1
